US07727989B2
b) 2-(6-Chloro-3-methoxypyridazin-4-yl)-7-methyl-1H-benzimidazole
6-Chloro-3-methoxypyridazine-4-carbaldehyde is dissolved in DMF, und 2,3-diaminotoluene is added. The reaction solution is heated at 120° C. in a microwave for 30 minutes. The crude product is purified on silica gel (eluent ethyl acetate in heptane). MS (ES+) m/z 275 (M+H).

reactant | 6-Chloro-3-methoxypyridazine-4-carbaldehyde | ClC1=CC(=C(N=N1)OC)C=O | C6H5ClN2O2
reactant | 2,3-diaminotoluene | NC1=C(C=CC=C1N)C | C7H10N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(6-Chloro-3-methoxypyridazin-4-yl)-7-methyl-1H-benzimidazole | ClC1=CC(=C(N=N1)OC)C1=NC2=C(N1)C(=CC=C2)C | C13H11ClN4O
